Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.85353427154
[C:4]#[C:5][C:6][O:7][H:8].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6][O:7][H:8],-3.84421229699
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][H:9]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][H:9].[O:1],3.88548673889
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],0.25030630015
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([O:9][H:10])[O:11][H:12],2.68642549723
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[C:10][H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],7.2842674614600025
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13],-1.49030247438
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([O:6])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.0625297823099
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-2.22260839017
[H:1][O:2][C:3]([C:4]#[C:5][C:7]([H:8])[H:9])[O:10][H:11].[H:6]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[O:10][H:11],-2.69439193925
[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],-1.14829596671
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1],3.45822502073
[C:4](/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-8.21456329144
[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.20271201117
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],1.28852141205
[C:6](=[C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.0426388913200002
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[C:1]#[C:2][C:3]([H:4])[C:6]#[C:7][H:8].[H:5],2.43185154632
[H:11].[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]>>[O:1]=[C:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][H:11],-3.93049748923
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8].[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-7.3631822859000025
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.421562052440001
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][H:4],5.1265081189
[C:1]#[C:2][H:3].[C:4](\[H:5])(=[C:6]\[O:7][H:8])[O:9][H:10]>>[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6][O:7][H:8])[O:9][H:10],-1.9338200636200005
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.79307008087
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16],1.83489623256
[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13],-5.45623577228
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[O:1][C:2][C:3],1.48955877901
[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.195863517519999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[O:1],8.38574711138
